US08138197B2
tert-Butyl 6-[(methoxycarbonyl)amino]-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate
Methyl chloridocarbonate was added to a solution of tert-butyl 6-amino-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate in pyridine and stirred at room temperature for 6 hours. The solvent was removed under reduced pressure and the residue was purified by silicagel column chromatography (hexane/EtOAc) to obtain the intended compound as pale yellow foam.

reactant | Methyl chloridocarbonate | COC(=O)Cl | C2H3ClO2
reactant | tert-butyl 6-amino-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate | NC=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C18H24N2O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 6-[(methoxycarbonyl)amino]-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate | COC(=O)NC=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C20H26N2O6
